US05409943
(b) N-[3-(2-Fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-phenylguanidine
A mixture of N-[3-(2-fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-phenylthiourea (2 g, 0.0052 mol), yellow mercuric oxide (1.34g, 0.0062 mol) and methanolic ammonia solution (40 ml) was stirred for 72 hours. The solvent was removed in vacuo and the black residue was treated with chloroform and filtered through celite. Evaporation of the solvent and recrystallisation from acetonitrile gave the desired product. Yield 1.07 g (56%), m.p. 147°-149 ° C.

reactant | N-[3-(2-fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-phenylthiourea | 0.0052 mol, 2 g | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=CC=C2)C(=CC=C1)Cl | C19H15ClFN3OS
reactant | ammonia | 40 ml | N | H3N
product | N-[3-(2-Fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-phenylguanidine | FC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=CC=C2)C(=CC=C1)Cl | C19H16ClFN4O
